Test for Scattering Parameters
** Two ports
** Examples: Bipolar,  Tschebyschef, RC

.param Rbase=50 Vbias_in=0 Vbias_out=0

*** The two-port circuit: 
** port 1: in 0
** port 2: out 0
** Bias on both ports through resistor Rbase (to obtain operating point)

** Example RF Bipolar mrf5711
** VCE 1 V, IE = 5mA
** QXXXXXXX nc nb ne
** model obtained from
** http://141.69.160.32/~krausg/Spice_Model_CD/Vendor%20List/Motorola/Spice/RFBJT/
*.include MRF5711.lib
*XMRF5711 out in e  MRF5711
*Ie e 0 5m
*Ce e 0 1

** Example Tschebyschef Low Pass filter
C1 in 0 33.2p
L1 in 2 99.2n
C2 2 0 57.2p
L2 2 out 99.2n
C3 out 0 33.2p

** Example RC
** see
** http://www.allenhollister.com/allen/files/scatteringparameters.pdf
*R2 in out 10
*C1 out int5 30p
*R1 int5 0 10

*** End of circuit


** The following subcircuit to be changed only by an experienced user!

*** Driver and readout
X1 in out S_2_2 S_1_2 S_PARAM

.SUBCKT S_PARAM 22 66 5 7
* Resistors emulate switches with Ron=0.001 and Roff=1e12
* to switch driver to input and readout to output (and vice versa, see below)
RS1 22 2 0.001
RS2 66 6 0.001
RS3 22 6 1e12
RS4 66 2 1e12
*Driver
Vacdc 1 0 DC 'Vbias_in' AC 1 ; ac voltage and dc bias at input (applied through load resistor)
R1 1 2 'Rbase'
E1 3 0 2 0 2       ; amplify in port ac voltage by 2
Vac 3 4 DC 0 AC 1  ; subtract driving ac voltage
R_loop 4 5 0.001
R3 5 0 1           ; ground return for measure node 5
*Readout
E2 7 0 6 0 2       ; amplify out port ac voltage by 2
R4 6 8 'Rbase'     ; load resistor at output (ac)
Vdc 8 0 DC 'Vbias_out' AC 0 ; dc bias at output (applied through load resistor)
.ends

** Check the two ac lines below for being equal!
.control
set noaskquit
set filetype=ascii
*** measurement for s_1_1 and s_2_1
op
** save bias voltages to vector
let Vdcnew=V(X1.1) ; former Vacdc 
let Vacdcnew=v(X1.8) ; former Vdc 
** first ac measurement (change this line only together with following ac line)
*ac lin 20 0.1G 2G ; use for bip transistor
ac lin 100 2.5MEG 250MEG ; use for Tschebyschef 
*ac lin 101 1k 10G ; use for RC
** 
** switch input and output
alter R.X1.RS1=1e12
alter R.X1.RS2=1e12
alter R.X1.RS3=0.001
alter R.X1.RS4=0.001
** switch bias voltages between in and out
alter V.X1.Vacdc DC=op1.Vacdcnew
alter V.X1.Vdc DC=op1.Vdcnew
*** measurement for s_1_2 and s_2_2
op
** second ac measurement (change this line only together with ac line above)
*ac lin 20 0.1G 2G ; use for bip transistor
ac lin 100 2.5MEG 250MEG ; use for Tschebyschef 
*ac lin 101 1 10G ; use for RC 
**
let s_1_1=ac1.s_2_2
let s_2_1=ac1.s_1_2
settype s-param S_1_1 S_2_1 S_2_2 S_1_2

let S11db = db(s_1_1)
let S12db = db(s_1_2)
let S21db = db(s_2_1)
let S22db = db(s_2_2)
settype decibel S11db S21db S22db S12db

let P11=180*ph(s_1_1)/pi
let P21=180*ph(s_2_1)/pi
let P22=180*ph(S_2_2)/pi
let P12=180*ph(S_1_2)/pi
settype phase P11 P21 P22 P12

let Rbase=@R.X1.R4[Resistance]
settype impedance Rbase

*plot s11db s21db S22db S12db ylimit -50 0 xlog ; used with RC 
plot s11db s21db S22db S12db ylimit -0.5 0 ; used with Tschebyschef  
plot P11 P21 P22 P12
plot smithgrid S_1_1 S_1_2
*wrdata s3046 mag(S11) P11 mag(S21) P21 mag(S22) P22 mag(S12) P12 ; write simple table
wrs2p s3046.s2p ; write touchstone vers. 1 file s3046.s2p
quit
.endc

.end
